US08461189B2
Pyridin-3-ylmethyl [4-(aminocarbonyl)benzyl]carbamate (0.35 g, 1.24 mmol), di-tert-butyl(2-chloro-6-phenylpyridin-3-yl)imidodicarbonate (0.5 g, 1.24 mmol), Xanthphos (0.07 g, 0.12 mmol), potassium phosphate, tribasic (0.79 g, 3.70 mmol), and Pd2(dba)3 (0.57 g, 0.06 mmol) were combined in a 20 mL microwave vial and dioxane was added. The mixture was degassed for 20 mins, then sealed and heated to 100° C. overnight. Reaction was not complete and was continued another 24 h, for a total of 48 h at 100° C. The reaction was cooled to RT, diluted with saturated NaHCO3 solution and EtOAc, and the layers were separated. The water layer was extracted with EtOAc (2×100 mL). The combined organic fractions were washed with brine, dried over Na2SO4, filtered, and evaporated in vacuo. The residue was purified on a Biotage 65i column to yield pyridin-3-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate. MS: cal'd 554 (MH+), exp 554 (MH+).

reactant | Pyridin-3-ylmethyl [4-(aminocarbonyl)benzyl]carbamate | 1.24 mmol, 0.35 g | NC(=O)C1=CC=C(CNC(OCC=2C=NC=CC2)=O)C=C1 | C15H15N3O3
reactant | di-tert-butyl(2-chloro-6-phenylpyridin-3-yl)imidodicarbonate | 1.24 mmol, 0.5 g | C(C)(C)(C)OC(=O)N(C(=O)OC(C)(C)C)C=1C(=NC(=CC1)C1=CC=CC=C1)Cl | C21H25ClN2O4
reactant | Xanthphos | 0.12 mmol, 0.07 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | potassium phosphate | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.06 mmol, 0.57 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | dioxane | O1CCOCC1 | C4H8O2
product | pyridin-3-ylmethyl{4-[({3-[(tert-butoxycarbonyl)amino]-6-phenylpyridin-2-yl}amino)carbonyl]benzyl}carbamate | N1=CC(=CC=C1)COC(NCC1=CC=C(C=C1)C(=O)NC1=NC(=CC=C1NC(=O)OC(C)(C)C)C1=CC=CC=C1)=O | C31H31N5O5
